US07595401B2
To a solution of [3-hydroxy-1-(tetrahydro-pyran-4-yl)-propyl]-carbamic acid tert-butyl ester (0.200 g, 0.770 mmol) and NEt3 (192 μL, 0.920 mmol) in CH2Cl2 (8 mL) was added MsCl (72 μL, 0.92 mmol) at 0° C. and the mixture was stirred at room temperature for 10 h. The solvent was evaporated to dryness and EtOAC was added. The ethyl acetate layer was washed with aq. NaHCO3, dried (Na2SO4), filtered, and solvent was evaporated under reduced pressure to afford methanesulfonic acid 3-tert-butoxycarbonylamino-3-(tetrahydro-pyran-4-yl)-propyl ester (0.162 g). LC-MS [M+Na] 360.2. The product was sufficiently pure for the next step and used without further purification.

reactant | [3-hydroxy-1-(tetrahydro-pyran-4-yl)-propyl]-carbamic acid tert-butyl ester | 0.770 mmol, 0.200 g | C(C)(C)(C)OC(NC(CCO)C1CCOCC1)=O | C13H25NO4
reactant | NEt3 | 0.920 mmol, 192 μL | CCN(CC)CC | C6H15N
reactant | MsCl | 0.92 mmol, 72 μL | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
product | methanesulfonic acid 3-tert-butoxycarbonylamino-3-(tetrahydro-pyran-4-yl)-propyl ester | 0.162 g | C(C)(C)(C)OC(=O)NC(CCOS(=O)(=O)C)C1CCOCC1 | C14H27NO6S
